US04125732
Methyl bromo{p-[(p-chlorophenoxy)methoxy]phenyl}acetate
To a solution of 23.3 g of methyl{p-[(p-chlorophenoxy)methoxy]phenyl}acetate in 300 ml of carbon tetrachloride is added 14.2 g of N-bromosuccinimide. The mixture is stirred and refluxed for 24 hours or until reaction is complete. The mixture is cooled, filtered and the filtrate poured through a column of silica gel (60-200 mesh). Cuts (250 ml) are taken with carbon tetrachloride eluent. The product is collected in fractions 2-6 to give 25.5 g of product as an oil.

reactant | methyl{p-[(p-chlorophenoxy)methoxy]phenyl}acetate | 23.3 g | COC(CC1=CC=C(C=C1)OCOC1=CC=C(C=C1)Cl)=O | C16H15ClO4
reactant | N-bromosuccinimide | 14.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 300 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | Methyl bromo{p-[(p-chlorophenoxy)methoxy]phenyl}acetate | 25.5 g | BrC(C(=O)OC)C1=CC=C(C=C1)OCOC1=CC=C(C=C1)Cl | C16H14BrClO4
